US07557114B2
(a) 5-(2,2,2-Trifluoro-ethoxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A6(a) from 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) and 2,2,2-trifluoroethanol. Yellow solid. MS (m/e): 262.0 ([M+H−Me2C═CH2]+, 100%)

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
product | 5-(2,2,2-Trifluoro-ethoxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)OCC(F)(F)F | C15H18F3NO3
